US07022851B2
1-(4-Fluoro-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
The title compound (900 mg, 96%) was synthesized by reaction of 1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (680 mg, 2.0 mmol) with (thymin-1-yl)-acetic acid (369 mg, 2.0 mmol) as per the procedure of example 64.

reactant | 1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 680 mg | Cl.FC1=CC(=C(C=C1)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | (thymin-1-yl)-acetic acid | 2.0 mmol, 369 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(4-Fluoro-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | 900 mg, 96% | FC1=CC(=C(C=C1)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O)[N+](=O)[O-] | C17H16FN5O8S
